US06953792B2
α,α-Dimethyl-3,5-bis(trifluoromethyl)benzeneacetic Acid
Lithium hydroxide monohydrate (2.13 g, 50.6 mmol) was added to a suspension of methyl α,α-dimethyl-3,5-bis(trifluoromethyl)benzeneacetate (Description 9, 5.3 g, 16.88 mmol) in methanol (60 mL), water (20 mL) and tetrahydrofuran (20 mL) and the mixture was degassed and stirred at room temperature for 3 days. The solvent was evaporated under reduced pressure and the residue was suspended in hydrochloric acid (1M). The mixture was extracted with ethyl acetate and the combined organic fractions were dried (MgSO4) and the solvent was evaporated under reduced pressure to give the title compound as a colorless solid (5.05 g, 100%). 1H NMR (400 MHz, CDCl3) δ 7.84 (2H, s), 7.80 (1H, s), and 1.68 (6H, s).

reactant | Lithium hydroxide monohydrate | 50.6 mmol, 2.13 g | O.[OH-].[Li+]
reactant | methyl α,α-dimethyl-3,5-bis(trifluoromethyl)benzeneacetate | 16.88 mmol, 5.3 g | CC(C(=O)OC)(C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)C | C13H12F6O2
solvent | methanol | 60 mL | CO | CH4O
solvent | water | 20 mL | O | H2O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | α,α-Dimethyl-3,5-bis(trifluoromethyl)benzeneacetic Acid | 5.05 g, 100% | CC(C(=O)O)(C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)C | C12H10F6O2
